US06585816B1
was prepared as follows. Boric acid (10.3 grams) and glycerol (30.6 grams) were added to a 250 milliliter flask. One hundred fifty milliliters of toluene was then added. The reaction was allowed to proceed overnight at 110° C., and the byproduct water (˜9 grams) was continuously removed from the reaction by azeotropic distillation. The final solution was evaporated to remove toluene under vacuum, and a viscous liquid product (˜30 grams) of diglycerol borate was obtained.

reactant | Boric acid | 10.3 grams | B(O)(O)O | BH3O3
reactant | glycerol | 30.6 grams | OCC(O)CO | C3H8O3
solvent | toluene | One hundred fifty milliliters | C1(=CC=CC=C1)C | C7H8
product | diglycerol borate | ˜30 grams | B(O)(O)O.OCC(O)CO.OCC(O)CO | InChI=1S/2C3H8O3.BH3O3/c2*4-1-3(6)2-5;2-1(3)4/h2*3-6H,1-2H2;2-4H
